US05472959
Dissolve Nα -(benzyloxycarbonyl)-β-(allylamino)-L-alanine, methyl ester (663 mg, 2.27 mmol) in anhydrous tetrahydrofuran (15 mL). Treat with pyridine (183 μL, 2.27 mmol) followed by trifluoroacetic anhydride (321 μL, 2.27 mmol) and stir at room temperature overnight. Partition between ethyl ether and water. Separate the organic phase, dry (MgSO4) and evaporate the solvent in vacuo. Purify by silica gel chromatography to give Nα -(benzyloxycarbonyl)-β-(trifluoroacetyl-allylamino)-L-alanine, methyl ester.

reactant | Nα -(benzyloxycarbonyl)-β-(allylamino)-L-alanine, methyl ester | 2.27 mmol, 663 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CNCC=C)C(=O)OC | C15H20N2O4
reactant | pyridine | 2.27 mmol, 183 μL | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 2.27 mmol, 321 μL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | Nα -(benzyloxycarbonyl)-β-(trifluoroacetyl-allylamino)-L-alanine, methyl ester | C(C1=CC=CC=C1)OC(=O)N[C@@H](CN(CC=C)C(C(F)(F)F)=O)C(=O)OC | C17H19F3N2O5
